US07417062B2
Step 5: 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid ((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-isoquinolin-3-ylmethyl-amide.
In 1 mL dichloromethane was dissolved 40 mg (0.089 mmol) of 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid isoquinolin-3-ylmethyl-(S)-1-pyrrolidin-2-ylmethyl-amide, to this solution was added 20 mg (0.25 mmol) of cyclobutanone and 53 mg (0.25 mmol) of sodium triacetoxyborohydride. After overnight the reaction was quenched with aqueous sodium bicarbonate and purified using reverse phase HPLC, mobile phase with a gradient 10-70% acetonitrile in 40 min. Fractions containing pure product were evaporated, the residue was dissolved in dichloromethane, washed with aqueous sodium bicarbonate, dried with anhydrous magnesium sulfate and evaporated in vacuum to yield 27 mg of the product as the free base as a pale yellow solid. LC-MSD, m/z for C30H35N3O4 [M+H]+: 502.7. 1H NMR (400 MHz, CDCl3): δ 1.4-2.0 (m, 9 H), 1.7 (s, 6 H), 2.3-2.4 (m, 1 H), 2.8-3.5 (m, 5 H), 3.7 (bs, 3 H), 3.8-4.0 (m, 1 H), 4.9-5.1 (m, 2 H), 6.6 (s, 1 H), 6.7-6.9 (m, 1 H), 7.5 (bs, 1 H), 7.5-7.6 (m, 1 H), 7.6-7.7 (m, 1 H), 7.8-7.9 (m, 1 H), 7.9-8.0 (m, 1 H), 9.2 (s, 1 H).

reactant | 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid isoquinolin-3-ylmethyl-(S)-1-pyrrolidin-2-ylmethyl-amide | 0.089 mmol, 40 mg | C1=NC(=CC2=CC=CC=C12)CN(C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC)C[C@H]1NCCC1 | C26H29N3O4
reactant | cyclobutanone | 0.25 mmol, 20 mg | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.25 mmol, 53 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid ((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-isoquinolin-3-ylmethyl-amide | 27 mg | C1(CCC1)N1[C@@H](CCC1)CN(C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC)CC=1N=CC2=CC=CC=C2C1 | C30H35N3O4
